US09062001B2
Methyl-6-oxo-1-phenyl-1,6-dihydropyridine-3-carboxylate
Methyl-6-oxo-1,6-dihydropyridine-3-carboxylate (6.0 g, 39.22 mmol), phenylboronic acid (5.74 g, 47.06 mmol), copper(II) acetate monohydrate (11.76 g, 58.82 mmol), pyridine (6.32 mL, 78.43 mmol) and molecular sieves (4 Å, 6.0 g) in dichloromethane (100 mL) was stirred at ambient temperature for 12 hours and filtered. Standard extractive work up provided a crude residue which was purified by silica gel column chromatography (100-200 mesh) (1-2% methanol in chloroform) to give the title compound as a brown solid (5.0 g, 56%). m.p. 100-105° C.; 1H NMR (400 MHz, CDCl3) δ 3.86 (s, 3H), 6.63 (d, J=9.5 Hz, 1H), 7.36-7.55 (m, 5H), 7.91 (dd, J=2.5, 9.9 Hz, 1H), 8.23 (d, J=2.5 Hz, 1H); IR (KBr) ν 3058, 2924, 2854, 1721, 1675, 1540, 1446, 1313, 1271, 1103 cm−1; MS 230 (M+1).

reactant | Methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 39.22 mmol, 6.0 g | COC(=O)C1=CNC(C=C1)=O | C7H7NO3
reactant | phenylboronic acid | 47.06 mmol, 5.74 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 78.43 mmol, 6.32 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate monohydrate | 58.82 mmol, 11.76 g | O.C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | Methyl-6-oxo-1-phenyl-1,6-dihydropyridine-3-carboxylate | 5.0 g, 56% | COC(=O)C1=CN(C(C=C1)=O)C1=CC=CC=C1 | C13H11NO3
